US05574062
A mixture of 1.96 g (10.0 mmol) of 2,4,5-trimethoxybenzaldehyde (purchased from Lancaster), and 1.96 g (10.0 mmol) of 4-bromophenylacetonitrile (purchased from Tokyo Kasei) in 5 ml of ethanol (purchased from Kokusan Kagaku) was heated to dissolve. Two drops of 20% aqueous sodium hydroxide solution was then added and the reaction mixture was stirred over night at ambient temperature. To the resultant reaction mass was added ethanol and crushed, and the precipitate was collected and washed with ethanol twice and with hexane twice, and dried to give 3.58 g (yield: 95.6%) of α-cyano-4-bromo-2',4',5'-trimethoxystilbene (as a yellow crystalline).

reactant | 2,4,5-trimethoxybenzaldehyde | 10.0 mmol, 1.96 g | COC1=C(C=O)C=C(C(=C1)OC)OC | C10H12O4
reactant | 4-bromophenylacetonitrile | 10.0 mmol, 1.96 g | BrC1=CC=C(C=C1)CC#N | C8H6BrN
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | sodium hydroxide | Two drops | [OH-].[Na+]
product | α-cyano-4-bromo-2',4',5'-trimethoxystilbene | 3.58 g, yield: 95.6% | C(#N)C(C1=CC=C(C=C1)Br)=CC1=C(C=C(C(=C1)OC)OC)OC | C18H16BrNO3
